US05639732
(3S)-[3-[(N-Benzyloxycarbonyl-L-leucyl) amino]-2-oxo-4-phenylbutyl] [3-(morpholin-4 -yl)propyl](phenyl)phosphinate:
Method B (but conducted in DMF); Cbz-L-leucyl-L-phenylalanylbromomethyl ketone; [3-(morpholin-4-yl)propyl](phenyl)phosphinic acid; 18 hours; flash chromatography (silica gel, 10% methanol/ethyl acetate); yield 43%; MS: 270 m/z (M+H)+.

reactant | Cbz-L-leucyl-L-phenylalanylbromomethyl ketone | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)C(Br)C(=O)C(C([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CC1=CC=CC=C1)=O)Br | C49H56Br2N4O9
reactant | [3-(morpholin-4-yl)propyl](phenyl)phosphinic acid | N1(CCOCC1)CCCP(O)(=O)C1=CC=CC=C1 | C13H20NO3P
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | DMF | CN(C)C=O | C3H7NO
product | (3S)-[3-[(N-Benzyloxycarbonyl-L-leucyl) amino]-2-oxo-4-phenylbutyl] [3-(morpholin-4 -yl)propyl](phenyl)phosphinate | yield 43% | N1(CCOCC1)CCCP(OCC([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)=O)(=O)C1=CC=CC=C1 | C37H48N3O7P
